US05637578
B. Synthesis of Boc-Gly-Ala
To a solution of Gly-Ala (25.0 g, 171 mmol) in THF (350 ml) and 0.5N sodium hydroxide (350 ml) at 0 ° C. was added (Boc)2O (41.3 g, 189 mmol). The pH was maintained at ~10 over a 5 h period (with 1.0N sodium hydroxide) and the reaction was stirred for 12 h thereafter at room temperature. The pH was again adjusted to ~10 with 1.0N sodium hydroxide, the THF layer was separated, and the aqueous solution was washed with ethyl acetate (2×250 ml). The pH was adjusted to 3.0 with 1.0N sodium bisulfate and this solution was extracted with ethyl acetate (2×250 ml). The combined extracts. were dried (magnesium sulfate), filtered and concentrated in vacuo to afford 38.2 g (91% yield) of the product as a white powder: 1H NMR (DMSO-d6) δ 1.26 (d, J=7.3 Hz, 3H), 1.38 (s, 9H), 3.45-3.62 (m, 2 H), 4.18-4.25 (m, 1H), 6.88 (t, J=5.6 Hz, 1H), 7.99 (d, J=7.2 Hz, 1H).

reactant | Gly-Ala | 171 mmol, 25.0 g | C[C@@H](C(=O)O)NC(=O)CN | C5H10N2O3
reactant | (Boc)2O | 189 mmol, 41.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 0.5N, 350 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | sodium hydroxide | 1.0N | [OH-].[Na+]
product | Boc-Gly-Ala | 38.2 g, 91% yield | N(CC(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
